US09428511B2
A solution of (3S,4S)-tert-butyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-methylpyrrolidine-1-carboxylate (200 mg, 0.455 mmol), 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (202 mg, 0.911 mmol), and 2M aq K3PO4 (0.683 ml, 1.366 mmol) in dioxane (2 ml) in a reaction vial was purged with N2 for 2 min, followed by addition of PdCl2(dppf) CH2Cl2 Adduct (1:1) (37.5 mg, 0.046 mmol). The reaction mixture was purged with nitrogen for 1 min, sealed and heated at 100° C. for 120 min. The product mixture was partitioned between EtOAc and water. The organic phase was washed with brine, filtered through CELITE®, dried (Na2SO4) and concentrated. The crude product was purified by flash column (ISCO 12 g, 20-80% EtOAc/hexane over 15 min) to afford (3S,4S)-tert-butyl 3-((7-carbamoyl-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-8-yl)amino)-4-methylpyrrolidine-1-carboxylate as an off-white solid, 139 mg. ESI-MS (Method A): m/z 455.2 ([M+H]+).

reactant | (3S,4S)-tert-butyl 3-((2-bromo-7-carbamoylimidazo[1,2-b]pyridazin-8-yl)amino)-4-methylpyrrolidine-1-carboxylate | 0.455 mmol, 200 mg | BrC=1N=C2N(N=CC(=C2N[C@@H]2CN(C[C@@H]2C)C(=O)OC(C)(C)C)C(N)=O)C1 | C17H23BrN6O3
reactant | 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.911 mmol, 202 mg | C(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C11H19BN2O2
reactant | K3PO4 | 1.366 mmol, 2M, 0.683 ml | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.046 mmol, 37.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (3S,4S)-tert-butyl 3-((7-carbamoyl-2-(1-ethyl-1H-pyrazol-4-yl)imidazo[1,2-b]pyridazin-8-yl)amino)-4-methylpyrrolidine-1-carboxylate | C(N)(=O)C1=C(C=2N(N=C1)C=C(N2)C=2C=NN(C2)CC)N[C@@H]2CN(C[C@@H]2C)C(=O)OC(C)(C)C | C22H30N8O3
